US07446222B2
b) 5-(2′-Bromo-biphenyl-3-yl)-1H-tetrazole
A mixture of 2′-bromo-biphenyl-3-carbonitrile (200 mg, 0.77 mmol), sodium azide (66 mg, 1.01 mmol) and triethylamine hydrochloride (139 mg, 1.01 mmol) in toluene (2 ml) was heated at 90° C. for 24 hours. A further portion of sodium azide (66 mg, 1.01 mmol) and triethylamine hydrochloride (139 mg, 1.01 mmol) was added and heated for a further 24 hours. After cooling, the mixture was extracted with water (3×2 ml). The combined extracts were acidified and the precipitate filtered off and dried. (163 mg, 70%).

reactant | 2′-bromo-biphenyl-3-carbonitrile | 0.77 mmol, 200 mg | BrC1=C(C=CC=C1)C1=CC(=CC=C1)C#N | C13H8BrN
reactant | sodium azide | 1.01 mmol, 66 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 1.01 mmol, 139 mg | Cl.C(C)N(CC)CC
reactant | sodium azide | 1.01 mmol, 66 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 1.01 mmol, 139 mg | Cl.C(C)N(CC)CC
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2′-Bromo-biphenyl-3-yl)-1H-tetrazole | BrC1=C(C=CC=C1)C1=CC(=CC=C1)C1=NN=NN1 | C13H9BrN4
